US06054470
A mixture of 5-bromo-4-methyl-3-nitro-2-pyridone (1.0 g, 2.8 mmol), trimethylsilylacetylene (1.2 mL, 8.5 mmol), bis(triphenylphosphine)Pd(II) chloride (0.100 g) and cuprous iodide (0.025 g) in DMF (4 mL) and triethylamine (2 mL) was heated at 90 ° C. in a sealed tube for 7 hours. Ethyl acetate was added, and the mixture was washed with water, dried, filtered and evaporated. Chromatography of the residue over silica gel (40% ethyl acetate/hexane) gave 5-trimethylsilylethynyl-4-methyl-3-nitro-2-pyridone (1.0 g, 2.7 mmol, 96%)

reactant | 5-bromo-4-methyl-3-nitro-2-pyridone | 2.8 mmol, 1.0 g | BrC=1C(=C(C(NC1)=O)[N+](=O)[O-])C | C6H5BrN2O3
reactant | trimethylsilylacetylene | 8.5 mmol, 1.2 mL | C[Si](C)(C)C#C | C5H10Si
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
solvent | triethylamine | 2 mL | C(C)N(CC)CC | C6H15N
product | 5-trimethylsilylethynyl-4-methyl-3-nitro-2-pyridone | 2.7 mmol, 1.0 g, 96% | C[Si](C)(C)C#CC=1C(=C(C(NC1)=O)[N+](=O)[O-])C | C11H14N2O3Si
